US05859012
Step C: Preparation of N-[2,2-diethoxy(ethyl)]-2,3-dimethylaniline
To a solution of 2,3-dimethylaniline (2.0 mL, 16.6 mmol) in 30 mL of dry DMF at room temperature was added cesium carbonate (5.4 g, 17 mmol), then bromoacetaldehyde diethylacetal (2.50 mL, 16.6 mmol). The solution was warmed to 110° C., and stirred for four days. Sodium iodide (100 mg, 0.6 mmol) was added, and the reaction stirred for an additional 24 hours. The reaction mixture was poured into EtOAc, washed with water and brine, dried (Na2SO4), filtered, and concentrated in vacuo to provide the titled product as a brown oil which was used directly in the next step without further purification.

reactant | 2,3-dimethylaniline | 16.6 mmol, 2.0 mL | CC1=C(N)C=CC=C1C | C8H11N
reactant | cesium carbonate | 17 mmol, 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetaldehyde diethylacetal | 16.6 mmol, 2.50 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | Sodium iodide | 0.6 mmol, 100 mg | [I-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2,2-diethoxy(ethyl)]-2,3-dimethylaniline | C(C)OC(CNC1=C(C(=CC=C1)C)C)OCC | C14H23NO2
